US06624158B2
(2R,3R,4R,5R)-4-(Acetoxy)-2-(6-[(2,2-diphenylethyl)amino]-2-{[({[2-(1-piperidinyl)ethyl]amino}carbonyl)amino]methyl}-9H-purin-9-yl)-5-(2-ethyl-2H-tetrazol-5-yl)tetrahydro-3-furanyl acetate
Prepared from N-({6-[(2,2-diphenylethyl)amino]-9H-purin-2-yl}methyl)-N′-[2-(1-piperidinyl)ethyl]urea (Preparation 42) and (2R,3R,4R)-4,5-bis(acetoxy)-2-(2-ethyl-2H-tetrazol-5-yl)tetrahydro-3-furanyl acetate (WO 9967265) by a similar procedure to Preparation 26. The title compound was obtained as a white solid.

reactant | N-({6-[(2,2-diphenylethyl)amino]-9H-purin-2-yl}methyl)-N′-[2-(1-piperidinyl)ethyl]urea | C1(=CC=CC=C1)C(CNC1=C2N=CNC2=NC(=N1)CNC(=O)NCCN1CCCCC1)C1=CC=CC=C1 | C28H34N8O
reactant | (2R,3R,4R)-4,5-bis(acetoxy)-2-(2-ethyl-2H-tetrazol-5-yl)tetrahydro-3-furanyl acetate | C(C)(=O)O[C@@H]1[C@H](OC([C@@H]1OC(C)=O)OC(C)=O)C=1N=NN(N1)CC | C13H18N4O7
product | (2R,3R,4R,5R)-4-(Acetoxy)-2-(6-[(2,2-diphenylethyl)amino]-2-{[({[2-(1-piperidinyl)ethyl]amino}carbonyl)amino]methyl}-9H-purin-9-yl)-5-(2-ethyl-2H-tetrazol-5-yl)tetrahydro-3-furanyl acetate | C(C)(=O)O[C@H]1[C@@H](O[C@@H]([C@H]1OC(C)=O)C=1N=NN(N1)CC)N1C2=NC(=NC(=C2N=C1)NCC(C1=CC=CC=C1)C1=CC=CC=C1)CNC(=O)NCCN1CCCCC1 | C39H48N12O6
